US07888364B2
151 mg of 4-amino-N-(4-chloro-3-(pyridin-2-yl)phenyl)benzamide was reacted with 105 μL of propane-2-sulfonyl chloride and 205 μL DIPEA in 500 μL DCM. The reaction mixture was evaporated, subjected to basic workup conditions and purified by reverse phase HPLC to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(1-methylethylsulfonamido)benzamide. MS (Q1) 430 (M)+.

reactant | 4-amino-N-(4-chloro-3-(pyridin-2-yl)phenyl)benzamide | 151 mg | NC1=CC=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=C1 | C18H14ClN3O
reactant | propane-2-sulfonyl chloride | 105 μL | CC(C)S(=O)(=O)Cl | C3H7ClO2S
reactant | DIPEA | 205 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 500 μL | C(Cl)Cl | CH2Cl2
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(1-methylethylsulfonamido)benzamide | ClC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)NS(=O)(=O)C(C)C)=O)C1=NC=CC=C1 | C21H20ClN3O3S
